US05352687
tert-Butyl 4-methylphenylacetate
450 g (3 mol) of 4-methylphenylacetic acid, 1.13 l (12 mol) of tert-butanol and 90 g (0.74 mol) of dimethylaminopyridine are dissolved in 2 l of dichloromethane. After addition of 680 g (3.3 mol) of dicyclohexylcarbodiimide, dissolved in 400 ml of dichloromethane, the mixture is stirred at 25° C. for 20 h, the precipitated urea is filtered off with suction and washed with 200 ml of dichloromethane, and the organic phase is washed twice each with 500 ml of 2N hydrochloric acid and water. The organic phase is concentrated and distilled. Yield: 408 g (66% of theory) Boiling point: 73°-78° C./0.2 mm

reactant | 4-methylphenylacetic acid | 3 mol, 450 g | CC1=CC=C(C=C1)CC(=O)O | C9H10O2
reactant | tert-butanol | 12 mol, 1.13 l | C(C)(C)(C)O | C4H10O
reactant | dimethylaminopyridine | 0.74 mol, 90 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 3.3 mol, 680 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 2 l | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-methylphenylacetate | CC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C13H18O2
